US08012976B2
tert-Butyl 4-(4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzyl)piperazine-1-carboxylate
A mixture of 4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde (150 mg, 0.39 mmol), tert-butyl piperazine-1-carboxylate (218 mg, 1.17 mmol), and acetic acid (117 mg, 1.95 mmol) in dichloromethane (20 mL) was stirred at room temperature overnight. Then the mixture was cooled to 0° C. and sodium triacetoxyborohydride (124 mg, 0.58 mmol) was added. After the addition, the mixture was stirred at room temperature for 5 h. Dichloromethane was removed under reduced pressure. The crude product was purified by flash chromatography to give the title compound (70 mg, yield 32%). LC-MS (ESI) m/z: 556 (M+1)+.

reactant | 4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 0.39 mmol, 150 mg | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=O)C=C2 | C23H16FN3O2
reactant | tert-butyl piperazine-1-carboxylate | 1.17 mmol, 218 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | acetic acid | 1.95 mmol, 117 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.58 mmol, 124 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-Butyl 4-(4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzyl)piperazine-1-carboxylate | 70 mg, yield 32% | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(CN3CCN(CC3)C(=O)OC(C)(C)C)C=C2 | C32H34FN5O3
